US07560551B2
A RBF set up with stirring bar and reflux condenser was charged with 2-(4-methylthiazole-2-carbonyl)benzoic acid (1.9 g, 7.7 mmol), hydrazine (1.3 mL, 226.9 mmol), and ethanol (40 mL, 0.2 M) while kept under nitrogen atmosphere. The reaction mixture was stirred under reflux overnight, then cooled to RT. The resulting precipitate was filtered off and washed with DCM to afford 4-(4-methylthiazol-2-yl)phthalazin-1(2H)-one. MS m/z=244 [M+H]+. Calc'd for C12H9N3OS: 243.2.

reactant | 2-(4-methylthiazole-2-carbonyl)benzoic acid | 7.7 mmol, 1.9 g | CC=1N=C(SC1)C(=O)C1=C(C(=O)O)C=CC=C1 | C12H9NO3S
reactant | hydrazine | 226.9 mmol, 1.3 mL | NN | H4N2
solvent | ethanol | 0.2 M, 40 mL | C(C)O | C2H6O
product | 4-(4-methylthiazol-2-yl)phthalazin-1(2H)-one | CC=1N=C(SC1)C1=NNC(C2=CC=CC=C12)=O | C12H9N3OS
